US03948996
A mixture of 5 g. of 1,1-dimethoxy-7-methylthio-3,7-dimethyloctane, 50 ml. of aqueous tetrahydrofuran (1:1) and 10 ml. of 3N hydrochloric acid is stirred at room temperature until hydrolysis is completed as followed by thin layer chromatography to give crude 7-metylthio-3,7-dimethyloctan-1-al which is worked up by extraction with ether and purified by chromatography.

reactant | 1,1-dimethoxy-7-methylthio-3,7-dimethyloctane | COC(CC(CCCC(C)(C)SC)C)OC | C13H28O2S
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-metylthio-3,7-dimethyloctan-1-al | CSC(CCCC(CC=O)C)(C)C | C11H22OS
